US05190953
1,3-Piperidinedicarboxylic acid 1-(1,1-dimethylethyl) 3-ethyl ester,
To a solution of nipecotic acid ethyl ester (44.0 g, 280 mmol) in methylene chloride (80 mL) was added dropwise to a solution of di-t-butyldicarbonate (61.2 g, 280 mmol) in methylene chloride (80 mL). The solution was stirred for 1 hour at room temperature, then filtered through Celite and concentrated in vacuo. The residue was distilled (bp0.7 124°-127° C.) to afford 67.5 g (94%) of the product as a colorless solid; mp 36°-38° C.

reactant | nipecotic acid ethyl ester | 280 mmol, 44.0 g | C(C)OC(C1CNCCC1)=O | C8H15NO2
reactant | di-t-butyldicarbonate | 280 mmol, 61.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | 1,3-Piperidinedicarboxylic acid 1-(1,1-dimethylethyl) 3-ethyl ester | 67.5 g, 94% | C(C)OC(=O)C1CN(CCC1)C(=O)OC(C)(C)C | C13H23NO4
